US09359362B2
(rac)-2-Amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
In a pressure-proof glass tube, (rac)-7-[4-cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (10 mg, 16 μmol) was initially charged in abs. ethanol (3 ml). Hydrazine hydrate (1.3 μl, 27 μmol, 1.7 eq.) was added, and the mixture was heated at 85° C. for 1 h. The reaction mixture was concentrated under reduced pressure, the residue was taken up in DMF (1 ml), 1 N hydrochloric acid (32 μl, 2 eq.) was added and the product was purified by preparative HPLC (Reprosil C18 column, 10 μm, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (7.9 mg, quant.).

reactant | (rac)-7-[4-cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 16 μmol, 10 mg | C(#N)C1=CC(=C(C=C1)C1C(=C(N(C=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C2=CC(=CC=C2)C(F)(F)F)C)C#N)S(=O)(=O)C | C30H18F3N7O4S
reactant | Hydrazine hydrate | 27 μmol, 1.3 μl, 1.7 eq. | O.NN
reactant | hydrochloric acid | 1 N, 32 μl, 2 eq. | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (rac)-2-Amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | NC1=NN2C(N(C(=C(C2C2=C(C=C(C=C2)C#N)S(=O)(=O)C)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1 | C22H16F3N7O2S
